US07919511B2
To a solution of ethyl 6-(2-cyanophenyl)-4-(3-fluorophenethylamino)nicotinate (100 mg, 0.26 mmol) and 3-aminomethylpyridine (39 mg, 0.36 mmol) in toluene (1 mL) was added AlMe3 (0.2 mL, 2M in toluene, 0.39 mmol) at r.t. The reaction mixture was stirred at 70° C. overnight. The reaction was cooled, quenched with sat. NaHCO3, and diluted with EtOAc. The organic layer was separated, washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated under reduced pressure to give a crude oil. The crude mixture was purified on RP-HPLC using a mixture of acetonitrile and H2O to give 6-(2-cyanophenyl)-4-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide (10 mg, 8.6%). LRMS (M+H+) m/z 452.0.

reactant | ethyl 6-(2-cyanophenyl)-4-(3-fluorophenethylamino)nicotinate | 0.26 mmol, 100 mg | C(#N)C1=C(C=CC=C1)C1=NC=C(C(=O)OCC)C(=C1)NCCC1=CC(=CC=C1)F | C23H20FN3O2
reactant | 3-aminomethylpyridine | 0.36 mmol, 39 mg | NCC=1C=NC=CC1 | C6H8N2
reactant | AlMe3 | 0.39 mmol, 2M, 0.2 mL | C[Al](C)C
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-cyanophenyl)-4-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide | 10 mg, 8.6% | C(#N)C1=C(C=CC=C1)C1=NC=C(C(=O)NCC=2C=NC=CC2)C(=C1)NCCC1=CC(=CC=C1)F | C27H22FN5O
